US07700625B2
78C. 4-(2,3-Dihydro-1H-isoindol-5-yl)-1-methyl-piperidin-4-ol dihydrochloride
A mixture of 1-methyl-4-(2-trityl-2,3-dihydro-1H-isoindol-5-yl)-piperidin-4-ol (1.42 g, 3.0 mmol), 5N hydrochloric acid (5 mL) and methanol (10 mL) was placed under nitrogen then heated to reflux for 80 minutes. After cooling, the mixture was concentrated in vacuo to remove methanol, diluted with water and washed with ethyl acetate (×2). The aqueous phase was concentrated to dryness to afford the title compound in quantitative yield as a black solid. 1H NMR (MeOH-d4) 7.62 (1H, s), 7.57 (1H, d), 7.45 (1H, d), 4.64 (2H, s), 4.63 (2H, s), 3.49-3.46 (4H, m), 2.95 (3H, s), 2.40-2.32 (2H, m), 1.97 (2H, dd).

reactant | 1-methyl-4-(2-trityl-2,3-dihydro-1H-isoindol-5-yl)-piperidin-4-ol | 3.0 mmol, 1.42 g | CN1CCC(CC1)(O)C=1C=C2CN(CC2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H34N2O
reactant | hydrochloric acid | 5N, 5 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 4-(2,3-Dihydro-1H-isoindol-5-yl)-1-methyl-piperidin-4-ol dihydrochloride | quantitative yield | Cl.Cl.C1NCC2=CC(=CC=C12)C1(CCN(CC1)C)O | InChI=1S/C14H20N2O.2ClH/c1-16-6-4-14(17,5-7-16)13-3-2-11-9-15-10-12(11)8-13;;/h2-3,8,15,17H,4-7,9-10H2,1H3;2*1H
